US04622326
6-Ethyl-3-(3-methoxyphenyl)-6H-isoxazolo[5,4-d]pyrazolo[3,4-b]pyridine
1-Ethyl-4-hydroxy-5-(3-methoxybenzoyl)-1H-pyrazolo-[3,4-b]pyridine was refluxed overnight in 75 ml of pyridine containing 7.0 g of hydroxylamine hydrochloride. The pyridine was evaporated and the residue triturated with 5% hydrochloric acid. The product thus obtained was recrystallized from methanol to give 5.94 g, mp 130°-131° C.

reactant | 1-Ethyl-4-hydroxy-5-(3-methoxybenzoyl)-1H-pyrazolo-[3,4-b]pyridine | C(C)N1N=CC=2C1=NC=C(C2O)C(C2=CC(=CC=C2)OC)=O | C16H15N3O3
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | pyridine | 75 ml, 7.0 g | N1=CC=CC=C1 | C5H5N
product | 6-Ethyl-3-(3-methoxyphenyl)-6H-isoxazolo[5,4-d]pyrazolo[3,4-b]pyridine | C(C)N1N=CC=2C1=NC=C1C2ON=C1C1=CC(=CC=C1)OC | C16H14N4O2
